US04067903
144 parts of β-naphthol, 143 parts of α-naphthylamine and 10 parts of triphenyl phosphite are mixed. A homogeneous melt is formed at 120° C internal temperature. The elimination of water commences when the internal temperature reaches 230° C and has ended after 3 hours, at an internal temperature of 250° C. 18 parts of water have distilled off. 258 parts of 1,2'-dinaphthylamine, of melting point 106° - 108° C, are obtained by distillation at 239° C/0.1 mm Hg. This corresponds to a yield of 96% of theory.

reactant | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | α-naphthylamine | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | 1,2'-dinaphthylamine | yield of 96% | C1=CC=C2C=C(C=CC2=C1)NC3=CC=CC4=CC=CC=C43 | C20H15N
